US08278457B2
Step 2. Synthesis of compound methyl 3-cyano-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi-1,3,2-dioxaborolane (bis(pinacolato)diboron, 5.81 g, 22.9 mmol), methyl 3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate (5.90 g, 19.1 mmol), potassium acetate (99%, 9.46 g, 95.4 mmol) and 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1.40 g, 1.91 mmol) were combined in degassed dioxane (83 mL) in a thick-walled reaction flask. The reaction was sealed and heated at 100° C. for 18 hours, then treated with dichloromethane (100 mL), stirred well and filtered through Celite®. The filter cake was rinsed with dichloromethane (2×100 mL), and the combined filtrates were concentrated in vacuo and subjected to chromatography on silica gel (Gradient: 0% to 30% ethyl acetate in heptane). Fractions containing product were concentrated and subjected to recrystallization from 2-propanol to provide the title compound as a white solid. Yield: 3.395 g, 11.82 mmol, 62%. 1H NMR (400 MHz, CDCl3) δ 1.41 (s, 12H), 3.97 (s, 3H), 7.98 (d, J=7.8 Hz, 1H), 8.20 (dd, J=7.8, 1.6 Hz, 1H), 8.35 (br d, J=1.6 Hz, 1H).

reactant | 4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi-1,3,2-dioxaborolane | 22.9 mmol, 5.81 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | methyl 3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 19.1 mmol, 5.90 g | C(#N)C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H6F3NO5S
reactant | potassium acetate | 95.4 mmol, 9.46 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dioxane | 83 mL | O1CCOCC1 | C4H8O2
product | methyl 3-cyano-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | C(#N)C=1C=C(C(=O)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C15H18BNO4
